US06743802B2
Following the procedure of EXAMPLE 15, but substituting N-cyclopropyl-1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide from EXAMPLE 6 for 2-phenyl-3-butyn-2-ol and 5-bromo-2-(1-hydroxy-1-methylethyl)pyridine-N-oxide from present Step 1 for N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide, the N-cyclopropyl-1-{3-[6-(1-hydroxy-1-methylethyl)-1-oxido-3-pyridinylethynyl]phenyl}-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide compound was obtained as a solid.

reactant | 2-phenyl-3-butyn-2-ol | C1(=CC=CC=C1)C(C)(C#C)O | C10H10O
reactant | 5-bromo-2-(1-hydroxy-1-methylethyl)pyridine-N-oxide | BrC=1C=CC(=[N+](C1)[O-])C(C)(C)O | C8H10BrNO2
reactant | N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)Br | C18H16BrN3O2
product | N-cyclopropyl-1-{3-[6-(1-hydroxy-1-methylethyl)-1-oxido-3-pyridinylethynyl]phenyl}-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C1(CC1)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)C#CC=1C=[N+](C(=CC1)C(C)(C)O)[O-] | C28H24N4O4
